* D:\Dropbox\Electronica y ciencia\PLL\sch\test.asc
XU1 Vout Vin Vout opamp Aol=100K GBW=10Meg
V Vin 0 1V
R1 Vout Vout 10k
R2 Vout 0 10k
.lib opamp.sub
.tran .002m
.backanno
.end
